US08476253B2
3-{[tert-Butyl(dimethyl)silyl]oxy}-N-methylpropan-1-amine
(3-Bromopropoxy)(tert-butyl)dimethylsilane (1.65 g, 6.52 mmol) was dissolved in methanol (13 mL), and the mixture was added to a 40% methyl amine-methanol solution (13.3 mL, 130.0 mmol) under ice cooling, and the mixture was stirred overnight at room temperature. The solvent was evaporated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (ethyl acetate:methanol=10:1→methylene chloride:methanol=10:1, v/v) to give the title compound (864 mg; yield, 65%) as a yellow oily substance.

reactant | (3-Bromopropoxy)(tert-butyl)dimethylsilane | 6.52 mmol, 1.65 g | BrCCCO[Si](C)(C)C(C)(C)C | C9H21BrOSi
reactant | methyl amine methanol | 130.0 mmol, 13.3 mL | CN.CO
solvent | methanol | 13 mL | CO | CH4O
product | 3-{[tert-Butyl(dimethyl)silyl]oxy}-N-methylpropan-1-amine | 864 mg, 65% | [Si](C)(C)(C(C)(C)C)OCCCNC | C10H25NOSi
